US05202407
A. Preparation of 3-hydroxypropyl tri-p-tolyl phosphonium bromide catalyst
Into a 50 milliliter glass reactor equipped with a thermometer connected to a temperature controller, a heating mantle, a condenser and a magnetic stirring bar, is charged 5.19 gms (0.0171 mole) of tri-p-tolyl phosphine and 23 gms of toluene. The slurry is heated to 40° C., then 2.85 gms (0.0205 mole) of 3-bromo-1-propanol is added. This reaction mass is heated to 40° C. in 1.2 hours, then increased the temperature to 80° C. and maintained at that temperature for 1 hour, then increased the temperature to 100° C. and maintained at that temperature for 1.75 hours, then cooled to 30° C., and then separated. The salt is washed with 10 gms of toluene, decanted and then vacuum dried. There is obtained 5.24 gms of an oily catalyst which has a chemical shift of 23.3 ppm (phosphoric acid reference).

reactant | tri-p-tolyl phosphine | 0.0171 mole, 5.19 gms | C1(=CC=C(C=C1)P(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C | C21H21P
reactant | 3-bromo-1-propanol | 0.0205 mole, 2.85 gms | BrCCCO | C3H7BrO
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | toluene | 23 gms | C1(=CC=CC=C1)C | C7H8
product | 3-hydroxypropyl tri-p-tolyl phosphonium bromide | [Br-].OCCC[P+](C1=CC=C(C=C1)C)(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C | InChI=1S/C24H28OP.BrH/c1-19-5-11-22(12-6-19)26(18-4-17-25,23-13-7-20(2)8-14-23)24-15-9-21(3)10-16-24;/h5-16,25H,4,17-18H2,1-3H3;1H/q+1;/p-1
